US07495006B2
5-Fluoro-1-[cis-4-(hydroxymethyl)-cyclobutyl]uracil
In a 25 mL flask with AlCl3 (1.93 g, 14.4 mmol) inside, dry anisole 5 mL was added under argon to give a light yellow solution. In another flask with N3-PMB -5-fluoro-1-[cis-4-(benzyloxymethyl)cyclobutyl]uracil (0.66 g, 1.44 mmol) inside, dry anisole 5 mL was added, after which time AlCl3 solution was added to it very slowly at room temperature. After addition finishes, the mixture was cooled to 0° C. and dry MeOH was added slowly to give a colorless solution at the end. Then the solvents were removed and the product was purified by silica gel flash chromatography (CH2Cl2:MeOH=20:1 to CH2Cl2:MeOH=10:1) to give a white solid (0.26 g, 74%, Rf=0.11 (CH2Cl2:MeOH=20:1)). 1H NMR (CD3OD, 400 MHz): δ IR (neat) νmax 3402, 3064, 2934, 1694, 1473, 1369, 1244, 1041, 1005, 913, 784, 706.

reactant | AlCl3 | 14.4 mmol, 1.93 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | anisole | 5 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | N3-PMB 5-fluoro-1-[cis-4-(benzyloxymethyl)cyclobutyl]uracil | 1.44 mmol, 0.66 g | N(=[N+]=[N-])CC1=CC=C(OC)C=C1.FC=1C(NC(N(C1)[C@@H]1CC[C@@H]1COCC1=CC=CC=C1)=O)=O
reactant | anisole | 5 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | MeOH | CO | CH4O
product | 5-Fluoro-1-[cis-4-(hydroxymethyl)-cyclobutyl]uracil | FC=1C(NC(N(C1)[C@@H]1CC[C@@H]1CO)=O)=O | C9H11FN2O3
